US04182769
1-Benzyloxymethyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole
A mixture of 3.5 g (0.01 mole) of 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole, 2.1 g (0.013 mole) benzyl chloromethyl ether, 3.6 g (0.026 mole) potassium carbonate in 25 ml DMF was stirred for 24 hours. TLC showed some starting material, so an additional 0.5 g (0.003 mole) of benzyl chloromethyl ether was added and stirring continued for another 24 hours. The mixture was poured into ice water, extracted three times with ether and the ether layers backwashed three times with water. The ether solution was dried and concentrated on a rotary evaporator. The residue was chromatographed on 200 g SilicAR CC-7, eluting with toluene to give, after recrystallization from hexane, 3.6 g (76.6%) of white product, mp 70°-70.5°.

reactant | 4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | 0.01 mole, 3.5 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SC(C(F)F)(F)F | C17H12F4N2S
reactant | benzyl chloromethyl ether | 0.013 mole, 2.1 g | ClCOCC1=CC=CC=C1 | C8H9ClO
reactant | potassium carbonate | 0.026 mole, 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloromethyl ether | 0.003 mole, 0.5 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-Benzyloxymethyl-4,5-diphenyl-2-(1,1,2,2-tetrafluoroethylthio)imidazole | C(C1=CC=CC=C1)OCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)SC(C(F)F)(F)F | C25H20F4N2OS
